US05401851
To a solution of pyrolidine (17 mL, 237 mmol) in 20 mL of H2O at room temperature was added p-flourobenzenesulfonyl chloride (15 g, 79 mmol) in portions over a 5 minute period. After 1 hour, the solution was diluted with 100 mL of H2O and extracted with ethyl acetate (3×50 mL). The organic was dried (Na2SO4) and concentrated in vacuo to give 12.3 g (72%) of 4-(pyrrolidinosulfonyl)flourobenzene as a colorless oil that solidified on standing. This material was used in the following reaction without further purification. MS.

reactant | pyrolidine | 237 mmol, 17 mL | N1CCCC1 | C4H9N
reactant | p-flourobenzenesulfonyl chloride | 79 mmol, 15 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | H2O | 20 mL | O | H2O
solvent | H2O | 100 mL | O | H2O
product | 4-(pyrrolidinosulfonyl)flourobenzene | 12.3 g, 72% | N1(CCCC1)S(=O)(=O)C1=CC=C(C=C1)F | C10H12FNO2S
